US05977219
5-Nonylthio-2-(2-hydroxy-3-α-cumyl-5-tert-octylphenyl)-2H-benzotriazole
Using the procedure of Example 4 with 30 g of 5-chloro-2-(2-hydroxy-3-α-cumyl-5-tert-octylphenyl)-2H-benzotriazole and 17.6 g of nonyl mercaptan, the title compound is prepared.

reactant | 5-chloro-2-(2-hydroxy-3-α-cumyl-5-tert-octylphenyl)-2H-benzotriazole | 30 g | ClC1=CC=2C(=NN(N2)C2=C(C(=CC(=C2)C(C)(C)CC(C)(C)C)C(C)(C)C2=CC=CC=C2)O)C=C1 | C29H34ClN3O
reactant | nonyl mercaptan | 17.6 g | C(CCCCCCCC)S | C9H20S
product | 5-Nonylthio-2-(2-hydroxy-3-α-cumyl-5-tert-octylphenyl)-2H-benzotriazole | C(CCCCCCCC)SC1=CC=2C(=NN(N2)C2=C(C(=CC(=C2)C(C)(C)CC(C)(C)C)C(C)(C)C2=CC=CC=C2)O)C=C1 | C38H53N3OS
